US04797401
(B) 1-Acetyl-4-(4-amino-3-methylphenyl)piperazine
1-Acetyl-4-(3-methyl-4-nitrophenyl)piperazine (0.5 g) and 5% palladium on carbon (0.1 g) in ethanol (20 ml) were hydrogenated at 60° and 60 p.s.i for 2 hours after which the catalyst was filtered off and the filtrate evaporated. The residue was partitioned between dichloromethane and water, and the aqueous layer extracted two more times with dichloromethane. The combined organic layers yielded 0.42 g of residue (of the title compound) on evaporation. This was recrystallized, m.p. 126°-9° (methanol/ethyl acetate).

reactant | 1-Acetyl-4-(3-methyl-4-nitrophenyl)piperazine | 0.5 g | C(C)(=O)N1CCN(CC1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C13H17N3O3
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-Acetyl-4-(4-amino-3-methylphenyl)piperazine | 0.42 g | C(C)(=O)N1CCN(CC1)C1=CC(=C(C=C1)N)C | C13H19N3O
